US07365095B2
Treatment of ((2R)-8-(2-chlorophenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate (0.7 g, 1.56 mmol) with sodium azide (0.61 g, 9.40 mmol) in DMSO (20 mL) according to the procedure described for Example 69, Step 9 provided 0.33 g (67%) of (2R)-2-(azidomethyl)-8-(2-chlorophenyl)-7-fluorochroman as a pale yellow oil.

reactant | ((2R)-8-(2-chlorophenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate | 1.56 mmol, 0.7 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=CC=C1)Cl | C23H20ClFO4S
reactant | sodium azide | 9.40 mmol, 0.61 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (2R)-2-(azidomethyl)-8-(2-chlorophenyl)-7-fluorochroman | 0.33 g, 67% | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=CC=C1)Cl | C16H13ClFN3O
